US07728176B2
A 50-ml four-necked flask was equipped with a stirrer, a thermometer and a reflux condenser. 0.034 g (0.15 mmol) of palladium (II) acetate, 0.019 g (0.1 mmol) of copper (I) iodide, 1.088 g (6 mmol) of dicyclohexylamine and 5 ml of tetrahydrofuran were weighed in the flask, followed by stirring. Further, 0.157 g (0.3 mmol) of tri-tert-butylphosphonium tetraphenylborate obtained in Example A-1 was weighed in air and added into the flask. The flask was purged with argon, followed by stirring at 30° C. for 30 minutes. 1.000 g (5 mmol) of 4-bromo-N,N-dimethylaniline and 0.505 g (6 mmol) of 2-methyl-3-butyne-2-ol were added, followed by stirring at 30° C. for 17 hours. After the completion of the reaction, 10 ml of tetrahydrofuran, 5 ml of toluene and 15 ml of saturated sodium chloride solution were added, followed by separation. The organic phase was purified by column chromatography to afford 0.876 g of 4-(N,N-dimethylaminophenyl)-2-methyl-3-butyne-2-ol (yield: 86 mol % based on 4-bromo-N,N-dimethylaniline). The identification of the product was made by mass spectroscopy, 1H-NMR and 13C-NMR.

reactant | dicyclohexylamine | 6 mmol, 1.088 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 4-bromo-N,N-dimethylaniline | 5 mmol, 1.000 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | 2-methyl-3-butyne-2-ol | 6 mmol, 0.505 g | CC(C)(C#C)O | C5H8O
reactant | sodium chloride | 15 ml | [Cl-].[Na+]
catalyst | palladium (II) acetate | 0.15 mmol, 0.034 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper (I) iodide | 0.1 mmol, 0.019 g | [Cu]I
catalyst | tri-tert-butylphosphonium tetraphenylborate | 0.3 mmol, 0.157 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(N,N-dimethylaminophenyl)-2-methyl-3-butyne-2-ol | 0.876 g | CN(C)C1=C(C=CC=C1)C#CC(C)(O)C | C13H17NO
